US07838675B2
N-[2-[(2,3-Difluorobenzyl)thio]-6-(2-hydroxyethoxy)pyrimidin-4-yl]-azetidine-1-sulfonamide
A mixture of azetidine-1-sulfonamide (0.33 g, prepared according to patent WO2004/011443), tris(dibenzylideneacetone)dipalladium (0) (50 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (50 mg), cesium carbonate (0.585 g) and 2-({6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)ethanol ((the product from example 112 step ii), 0.400 g) in dioxane (20 ml) was heated at reflux in a microwave at 100° C., 300 W, open vessel with cooling for 30 mins. The reaction mixture was then reduced in vacuo and the residue separated between DCM (150 ml) and H2O (150 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×150 ml). Organics were combined, dried (MgSO4) and reduced in vacuo and the resulting residue purified by prep HPLC to give the title compound as a white solid. Yield: 0.13 g

reactant | azetidine-1-sulfonamide | 0.33 g | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 50 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.585 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-({6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)ethanol | ClC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)OCCO | C13H11ClF2N2O2S
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-[(2,3-Difluorobenzyl)thio]-6-(2-hydroxyethoxy)pyrimidin-4-yl]-azetidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC2)OCCO)C=CC=C1F | C16H18F2N4O4S2
